US08865912B2
Preparation of 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid
A suspension of methyl 1-[3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 49 (1.09 g, 2.330 mmol) in Methanol (12 mL) and Tetrahydrofuran (THF) (4 mL) was treated with 1 M aq. sodium hydroxide (12 mL, 12.00 mmol) and stirred at 70° C. for 1.5 h (mixture turned homogeneous). The reaction was cooled to room temperature, the volume reduced to half and the residue was acidified (pH 4) by the addition of 1 N HCl. The precipitate was collected, washed with water and dried to give crude desired product (918.6 mg, 2.024 mmol, 87% yield) as a yellow solid. A portion of it (140 mg) was suspended in 3.5 mL of DMSO. After sonication and heating, the solid went into solution but it crashed out. The precipitate was collected and washed with DMSO, but it still showed impurities by LC/MS. Another aliquot (132 mg) was dissolved with heating in 5 mL of DMSO and purified by reverse phase-HPLC (15 to 95% AcCN in water plus 0.1% TFA). The desired product was isolated by evaporation of the organic solvent: the precipitate was collected by filtration, washed with water and dried in a vacuum oven to afford pure desired product (89 mg, 0.192 mmol, 8.25% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.09 (s, 1H), 7.63 (d, J=2.27 Hz, 1H), 7.36 (d, J=7.83 Hz, 1H), 7.30 (d, J=2.27 Hz, 1H), 7.05 (t, J=7.96 Hz, 1H), 5.98 (d, J=7.58 Hz, 1H), 5.70 (s, 2H), 3.66-3.83 (m, 4H), 3.08-3.24 (m, 4H), 2.47 (s, 3H). MS (ES+) m/e 453.9 [M+H]+.

reactant | 6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate | N1(CCOCC1)C=1C=C(C2=C(NC(=N2)C(F)(F)F)C1)C(=O)[O-]
reactant | sodium hydroxide | 12.00 mmol, 1 M, 12 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | Tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | Methanol | 12 mL | CO | CH4O
solvent | DMSO | 3.5 mL | CS(=O)C | C2H6OS
product | 1-[(3-chloro-2-methylphenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylic acid | ClC=1C(=C(C=CC1)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C(F)(F)F)C | C21H19ClF3N3O3
